US07504408B2
N-[5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-(3-chloropropoxy)-5-isopropoxyquinazolin-4-amine was prepared as follows
A mixture N-(5-chloro-7-iodo-1,3-benzodioxol-4yl)-7-(3-chloropropoxy)-5-isopropoxyquinazolin-4-amine (1.313 g, 1:1 wt.:wt. mixture with triphenylphosphine), 3-methoxy-prop-1-yne (0.19 ml), palladium(II) bis-triphenylphosphine dichloride (0.080 g) and copper (I) iodide (0.022 g) was taken up into ethyl acetate (15 ml) and cooled to −10° C. This was set to stir rapidly and then diisopropylamine (0.32 ml) was added and the reaction was stirred cold for 45 minutes before being warmed to room temperature and left to stir for a further 90 minutes. The reaction mixture was then filtered through Celite under suction (washing the Celite with a further portion of ethyl acetate) then the combined filtrate solutions were evaporated under reduced pressure to leave a brown gum. The gum was then purified by column chromatography on silica using diethyl ether as eluent. There was thus obtained the title compound (as a 1:1.3 wt.:wt. mixture with triphenylphosphine) (1.056 g) as a yellow solid; NMR Spectrum: (CDCl3) 1.53 (d, 6H), 2.30 (quin, 2H), 3.45 (s, 3H), 3.76 (t, 2H), 4.25 (t, 2H), 4.35 (s, 2H), 4.83 (sept, 1H), 6.10 (s, 2H), 6.49 (d, 1H), 6.85 (d, 1H), 7.06 (s, 1H), 8.52 (s, 1H), 9.42 (s, 1H)—triphenylphosphine 7.46 (m, 6H), 7.54 (m, 3H), 7.67 (m, 6H);

reactant | N-(5-chloro-7-iodo-1,3-benzodioxol-4yl)-7-(3-chloropropoxy)-5-isopropoxyquinazolin-4-amine | 1.313 g | ClC1=C(C2=C(OCO2)C(=C1)I)NC1=NC=NC2=CC(=CC(=C12)OC(C)C)OCCCCl | C21H20Cl2IN3O4
reactant | 3-methoxy-prop-1-yne | 0.19 ml | COCC#C | C4H6O
reactant | diisopropylamine | 0.32 ml | C(C)(C)NC(C)C | C6H15N
catalyst | copper (I) iodide | 0.022 g | [Cu]I
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | N-[5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-(3-chloropropoxy)-5-isopropoxyquinazolin-4-amine | ClC1=C(C2=C(OCO2)C(=C1)C#CCOC)NC1=NC=NC2=CC(=CC(=C12)OC(C)C)OCCCCl | C25H25Cl2N3O5
